US04649142
To a solution of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethoxycarbonylmethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (4 g) in methanol (30 ml) was added a solution of sodium hydroxide (0.52 g) in water (6 ml) and stirred at room temperature for 3 hours. After removal of methanol, the residue was dissolved in water (40 ml) and adjusted to pH 5.8 and extracted with chloroform. The chloroform layer was washed with brine, dried over magnesium sulfate and evaporated to give a residue, which was triturated in n-hexane to give colorless powders (3.3 g) of 3,4-dihydro-1-carboxymethyl-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone.

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1-ethoxycarbonylmethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 4 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1CC(=O)OCC)=O)C)=NC1=C(C=C(C=C1C)C)C | C26H31N3O5
reactant | sodium hydroxide | 0.52 g | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | 3,4-dihydro-1-carboxymethyl-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 3.3 g | C(=O)(O)CN1C(N(C(C=C1C1=CC(=C(C=C1)OC)OC)=NC1=C(C=C(C=C1C)C)C)C)=O | C24H27N3O5
